US06583135B2
Preparation of tert-Butyl 6-(2-Hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
A chilled (0° C. ) mixture of tert-butyl 6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate in tetrahydrofuran (30 mL) was treated over 1 h with 1 M diisobutylaluminum hydride (19.0 mL, 19.0 mmol) in dichloromethane. After 1.5 h, ice was added and the mixture was allowed to warm to rt. The mixture was evaporated in vacuo and the residue was partitioned between ethyl acetate and water. The organic phase was filtered through celite, dried, and evaporated in vacuo to provide 2.479 g of the title compound, the structure of which is shown in FIG. 6 as (24) (where n=1).

reactant | tert-butyl 6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | C(C)OC(CN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C)=O | C21H28N2O4
reactant | diisobutylaluminum hydride | 19.0 mmol, 1 M, 19.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl 6-(2-Hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 2.479 g | OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H26N2O3
